US04215134
4-[2-Hydroxy-3-(2-propylamino)-propoxy]-6-methyl-2-benzimidazoline-thione
From potassium xanthogenate and 2,3-diamino-1-[2-hydroxy-3-(2-propylamino)-propoxy]-5-methylbenzene, using the process described in Example 3, there is obtained the title compound which, after recrystallisation from ethanol, decomposes at 294°-295° C.

reactant | potassium xanthogenate | CCOC(=S)[S-].[K+]
reactant | 2,3-diamino-1-[2-hydroxy-3-(2-propylamino)-propoxy]-5-methylbenzene | NC1=C(C=C(C=C1N)C)OCC(CNC(C)C)O | C13H23N3O2
product | 4-[2-Hydroxy-3-(2-propylamino)-propoxy]-6-methyl-2-benzimidazoline-thione | OC(COC1=CC(=CC=2NC(NC21)=S)C)CNC(C)C | C14H21N3O2S
